US06414149B1
(R)-1-(4-Piperazin-1-yl-pyrimidin-2-yl)-ethyl acetate
A mixture of (R)-1-(4-methanesulfonyloxy-pyrimidin-2-yl)-ethyl acetate (prepared according to the method of Preparation Six, 24.1 g, 92 mmol) and piperazine (16.0 g, 184 mmol) in tetrahydrofuran (200 mL) was heated at reflux for 1 h. This mixture was cooled, filtered, concentrated, and purified by flash column chromatography (9:1 dichloromethane/methanol) to give 24.4 g (88%) of the title compound as an oil. 1H NMR (CDCl3, 300 MHz) δ1.56 (d, 3H), 2.25 (s, 3H), 2.83 (m, 4H), 3.63 (m, 4H), 5.54 (q, 1H), 6.38 (d, 1H), 8.24 (d, 1H); MS (CI) 251 (MH+).

reactant | (R)-1-(4-methanesulfonyloxy-pyrimidin-2-yl)-ethyl acetate | C(C)(=O)O[C@H](C)C1=NC=CC(=N1)OS(=O)(=O)C | C9H12N2O5S
reactant | piperazine | 184 mmol, 16.0 g | N1CCNCC1 | C4H10N2
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | (R)-1-(4-Piperazin-1-yl-pyrimidin-2-yl)-ethyl acetate | 24.4 g, 88% | C(C)(=O)O[C@H](C)C1=NC=CC(=N1)N1CCNCC1 | C12H18N4O2
